US06699910B2
Ethyl (4-isobutyl-phenyl)-acetate (10.5 g, 44.8 mmol) was dissolved in freshly distilled tetrahydrofuran (150 mL) and cooled to −78° C. Lithium diisopropylamide (2 N, 28 mL, 56 mmol) was added and the solution stirred for 1 hour at −78° C. under a nitrogen atmosphere. 1,4-Dibromobutane (25 mL, 37.5 g, 175 mmol) was then added drop-wise over 30 minutes. The solution was allowed to warm to room temperature over five hours. After stirring at room temperature for an additional 16 hours, the reaction was quenched with water (100 mL) and extracted with diethyl ether (2×100 mL). The ether was washed with 10% hydrochloric acid (2×100 mL), saturated sodium bicarbonate (100 mL) and water (100 mL). After drying with sodium sulfate (5 g), filtration and concentration, the product was purified by flash chromatography on silica gel (200 g), eluting with 5% ethyl acetate/hexanes. The product was then heated to 150° C. under vacuum (0.5 mm Hg) for 30 minutes to remove excess 1,4-dibromobutane. The reaction yielded 6-bromo-2-(4-isobutyl-phenyl)-2-methyl-hexanoic acid ethyl ester (14.49 g, 87.5% yield) as a clear, viscous oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 7.19 (d, 2H, J=8.0 Hz), 7.08 (d, 2H, J=8.0 Hz), 4.11 (q, 2H, J=7.0 Hz), 3.35 (t, 2H, J=6.8 Hz), 2.43 (d, 2H, J=7.3 Hz), 2.10-1.92 (m, 1H), 1.92-1.78 (m, 4H), 1.53 (s, 3H), 1.40-1.28 (m, 2H), 1.17 (t, 3H, J=7.0 Hz), 0.88 (6H, J=6.8). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm) 176.17, 141.12, 140.04, 129.14, 125.64, 60.77, 49.80, 44.99, 38.52, 33.51, 33.26, 30.22, 23.55, 22.69, 22.50, 14.19. HRMS (LSIMS, nba): Calcd. for C19H30O2Br (MH+): 369.1429, found: 369.1445.

reactant | Ethyl (4-isobutyl-phenyl)-acetate | 44.8 mmol, 10.5 g | C(C(C)C)C1=CC=C(C=C1)CC(=O)OCC | C14H20O2
reactant | Lithium diisopropylamide | 56 mmol, 2 N, 28 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1,4-Dibromobutane | 175 mmol, 25 mL, 37.5 g | BrCCCCBr | C4H8Br2
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 6-bromo-2-(4-isobutyl-phenyl)-2-methyl-hexanoic acid ethyl ester | 14.49 g, 87.5% yield | C(C)OC(C(CCCCBr)(C)C1=CC=C(C=C1)CC(C)C)=O | C19H29BrO2
